US06569849B1
Sodium hydride (60% oil suspension, 0.108 g, 2.7 mmol) was added to a stirred solution of 1-(3-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-2-hydroxy-propyl)-4-piperidinecarboxylic acid ethyl ester (1.1 g, 2.7 mmol) in dry N,N-dimethylformamide (7.5 ml). Propylbromide (0.7 g, 5.68 mmol) was added dropwise to the ice-cooled stirred solution and the reaction mixture was left at room temperature for 16 h. The mixture was concentrated in vacuo. The residue was dissolved in toluene (20 ml), washed with water (3×10 ml), dried (MgSO4) and concentrated in vacuo. The crude product was purified by column chromatography on silica gel using a mixture of toluene, ethyl acetate and triethylamine (35:6:1) as eluent to give 0.11 g (9%) of 1-(3-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-2-propoxypropyl)-4-piperidinecarboxylic acid ethyl ester as an oil.

reactant | Sodium hydride | 2.7 mmol, 0.108 g | [H-].[Na+]
reactant | 1-(3-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-2-hydroxy-propyl)-4-piperidinecarboxylic acid ethyl ester | 2.7 mmol, 1.1 g | C(C)OC(=O)C1CCN(CC1)CC(CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)O | C25H32N2O3
reactant | Propylbromide | 5.68 mmol, 0.7 g | C(CC)Br | C3H7Br
solvent | N,N-dimethylformamide | 7.5 ml | CN(C=O)C | C3H7NO
product | 1-(3-(10,11-dihydro-5H-dibenzo[b,f]azepin-5-yl)-2-propoxypropyl)-4-piperidinecarboxylic acid ethyl ester | 0.11 g, 9% | C(C)OC(=O)C1CCN(CC1)CC(CN1C2=C(CCC3=C1C=CC=C3)C=CC=C2)OCCC | C28H38N2O3
